US07816540B2
c) 4-Nitro-3-trifluoromethyl-benzoic acid methyl ester
The solution of 4.2 g (17.9 mmol) 4-nitro-3-(trifluoromethyl)benzoic acid (commercially available) in 5.1 mL 1.25 M hydrochloric acid in methanol was refluxed for 5 h. After cooling down to room temperature the solution was poured on saturated aqueous sodium bicarbonate solution and the phases were separated. The aqueous layer was extracted three times with ethyl acetate, the combined organic layers washed with brine, dried over magnesium sulfate and evaporated. After filtration the solvent was evaporated and the residue was purified by column chromatography on silica gel using an MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane:ethyl acetate (100:0 to 60:40 v/v) to afford the title compound as a light yellow solid (90%) which was pure enough for the next step without further purification.

reactant | 4-nitro-3-(trifluoromethyl)benzoic acid | 17.9 mmol, 4.2 g | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F3NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 1.25 M, 5.1 mL | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-Nitro-3-trifluoromethyl-benzoic acid methyl ester | 90% | COC(C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C9H6F3NO4
